US04963566
To a suspension of lithium aluminium hydride (0.3 g) in tetrahydrofuran (50 ml) was added dropwise a solution of 8-(2-benzimidazolyl)thiomethyl-1-ethyl-3-ethoxycarbonyl-1,2,3,4-tetrahydroquinoline (1.0 g) in tetrahydrofuran (10 ml) with stirring under ice-cooling. The mixture was stirred for 3 hours at the same temperature. To the reaction mixture were added water (0.3 ml) and a solution of sodium hydroxide (0.3 g) in water (1.5 ml). After filtering off the precipitate, the filtrate was dried over anhydrous magnesium sulfate. After distilling off tetrahydrofuran, the resulting residue was recrystallized from ethanol to give 8-(2-benzimidazolyl)thiomethyl-1-ethyl-3-hydroxymethyl-1,2,3,4-tetrahydroquinoline (0.7 g).

reactant | lithium aluminium hydride | 0.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-(2-benzimidazolyl)thiomethyl-1-ethyl-3-ethoxycarbonyl-1,2,3,4-tetrahydroquinoline | 1.0 g | N1=C(NC2=C1C=CC=C2)SCC=2C=CC=C1CC(CN(C21)CC)C(=O)OCC | C22H25N3O2S
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 1.5 ml | O | H2O
solvent | water | 0.3 ml | O | H2O
product | 8-(2-benzimidazolyl)thiomethyl-1-ethyl-3-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 0.7 g | N1=C(NC2=C1C=CC=C2)SCC=2C=CC=C1CC(CN(C21)CC)CO | C20H23N3OS
